US07629358B2
Preparation 150: N-1-Adamantyl-2-(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetamide
The title compound was prepared from (3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methyl propyl}phenyl)acetic acid (preparation 148) and 1-adamantylamine, using a similar method to that of preparation 38, as a yellow oil in 71% yield. 1H NMR (400 MHz, DMSO-d6) δ: 7.52 (3H, m), 7.52-7.24 (4H, m), 7.18-7.08 (2H, m), 7.07-6.98 (2H, m), 6.94 (1H, m), 5.09 (2H, d), 5.01 (1H, t), 4.66-4.61 (1H, m), 4.54 (2H, d), 3.25 (2H, d), 3.15 (1H, d), 2.59-2.43 (2H, m), 1.98-1.92 (3H, m), 1.87 (6H, m), 1.57 (6H, m), 0.96 (6H, dd), 0.79 (9H, d), -0.98 (3H, s), -0.93 (3H, s) ppm; LRMS ESI m/z 712 [M+H]+

reactant | (3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methyl propyl}phenyl)acetic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNC(CC=1C=C(C=CC1)CC(=O)O)(C)C)O[Si](C)(C)C(C)(C)C)CO | C34H47NO5Si
reactant | 1-adamantylamine | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
product | N-1-Adamantyl-2-(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetamide | 71% yield | C12(CC3CC(CC(C1)C3)C2)NC(CC2=CC(=CC=C2)CC(C)(C)NC[C@H](O[Si](C)(C)C(C)(C)C)C2=CC(=C(C=C2)OCC2=CC=CC=C2)CO)=O | C44H62N2O4Si
